US06844357B2
5E. 6-[(4-Chloro-phenyl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-4-(5-chloro-thiophen-2-yl)-1H-quinolin-2-one
The same procedure was used as that in example 2, except that (4-chloro-phenyl)-[2-methoxy-4-(5-chloro-thiophen-2-yl)-quinolin-6-yl]-(3-methyl-3H-imidazol-4-yl)-methanol (0.194 g, 0.391 mmol) was used in the place (4-chloro-phenyl)-[2-methoxy-4-(5-methyl-thiophen-2-yl)-quinolin-6-yl]-(3-methyl-3H-imidazol-4-yl)-methanol, to give title compound as a white solid (0.178 g, 0.369 mmol, 94% yield).

reactant | (4-chloro-phenyl)-[2-methoxy-4-(5-chloro-thiophen-2-yl)-quinolin-6-yl]-(3-methyl-3H-imidazol-4-yl)-methanol | 0.391 mmol, 0.194 g | ClC1=CC=C(C=C1)C(O)(C=1N(C=NC1)C)C=1C=C2C(=CC(=NC2=CC1)OC)C=1SC(=CC1)Cl | C25H19Cl2N3O2S
reactant | (4-chloro-phenyl)-[2-methoxy-4-(5-methyl-thiophen-2-yl)-quinolin-6-yl]-(3-methyl-3H-imidazol-4-yl)-methanol | ClC1=CC=C(C=C1)C(O)(C=1N(C=NC1)C)C=1C=C2C(=CC(=NC2=CC1)OC)C=1SC(=CC1)C | C26H22ClN3O2S
product | 6-[(4-Chloro-phenyl)-hydroxy-(3-methyl-3H-imidazol-4-yl)-methyl]-4-(5-chloro-thiophen-2-yl)-1H-quinolin-2-one | 0.369 mmol, 0.178 g, 94% yield | ClC1=CC=C(C=C1)C(C=1C=C2C(=CC(NC2=CC1)=O)C=1SC(=CC1)Cl)(C=1N(C=NC1)C)O | C24H17Cl2N3O2S
